US08389550B2
6-[(E)-2-(5-Methyl-3-phenyl-isoxazol-4-yl)-vinyl]-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described in example 2, 6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid methyl ester (200 mg, 0.62 mmol) instead of 6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid methyl ester, and 4-aminotetrahydropyran instead of isopropylamine, was converted to the title compound (188 mg, 77%) which was obtained as a white solid after purification by chromatography (silica, dichloromethane:methanol 100:0 to 95:5). MS: m/e=390.4 [M+H]+.

reactant | 6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid methyl ester | 0.62 mmol, 200 mg | COC(C1=CN=C(C=C1)\C=C\C=1C(=NOC1C)C1=CC=CC=C1)=O | C19H16N2O3
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-[(E)-2-(5-Methyl-3-phenyl-isoxazol-4-yl)-vinyl]-N-(tetrahydro-pyran-4-yl)-nicotinamide | 188 mg, 77% | CC1=C(C(=NO1)C1=CC=CC=C1)/C=C/C1=NC=C(C(=O)NC2CCOCC2)C=C1 | C23H23N3O3
